US08835432B2
2-(1-(6-Fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione
A solution of 2-(1-(3-chloro-6-fluoroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione (50.14 g, 140.9 mmol), 2-tri-n-butylstannylpyridine (80% pure) (76.95 ml, 211.4 mmol), and tetrakis(triphenylphosphine)palladium(0) (16.29 g, 14.09 mmol) in 1,4-dioxane (1175 ml, 140.9 mmol) was stirred at 110° C. for 29 h. After 29 h, the mixture was cooled to rt and concentrated under reduced pressure to give a green syrupy solid. To the residue was added DCM (200 mL). The mixture was heated under reflux for 20 min and then cooled to 0° C. with stirring. The solid was collected by filtration and washed with EtOAc-hexane (1:5, 500 mL) to give the desired product (52.82 g, 94.07% yield). The dark brown solid was dissolved in CH2Cl2:MeOH (9:1, 400 mL, warm), filtered through a plug of silica gel (150 g, 8.5 cm diameter×5.5 cm height) to remove residual palladium and washed with CH2Cl2:MeOH (9:1, 600 mL). The filtrate was concentrated under reduced pressure to give a brown solid (49.94 g, 88.9% yield). The brown solid was suspended in EtOAc-hexane (1:9, 400 mL) and the mixture was heated under reflux for 40 min. The mixture was cooled to rt, filtered, washed with EtOAc-hexane (1:9, 600 mL), and dried to give the desired product 2-(1-(6-fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione (47.76 g, 85.06% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47-8.53 (m, 1H), 8.20 (dd, J=9.4, 5.9 Hz, 1H), 7.94 (dd, J=9.4, 2.7 Hz, 1H), 7.85 (td, J=8.9, 2.9 Hz, 1H), 7.64-7.80 (m, 6H), 7.30-7.37 (m, 1H), 6.42 (q, J=6.9 Hz, 1H), 1.76 (d, J=7.0 Hz, 3H). Mass Spectrum (ESI) m/e=399.1 (M+1).

reactant | 2-(1-(3-chloro-6-fluoroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 140.9 mmol, 50.14 g | ClC=1C(=NC2=CC=C(C=C2N1)F)C(C)N1C(C2=CC=CC=C2C1=O)=O | C18H11ClFN3O2
reactant | 2-tri-n-butylstannylpyridine | 211.4 mmol, 76.95 ml | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | 1,4-dioxane | 140.9 mmol, 1175 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 14.09 mmol, 16.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(6-Fluoro-3-(pyridin-2-yl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 52.82 g, 94.07% yield | FC=1C=C2N=C(C(=NC2=CC1)C(C)N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1 | C23H15FN4O2
